### PR TITLE
[Merged by Bors] - feat: define `ContinuousMultilinearMap.linearDeriv` and show it's the `fderiv`

### PR DESCRIPTION
**Pull request by alreadydone**
Co-authored-by: Sophie Morel

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 1]
```diff
@@ -294,3 +294,85 @@ theorem CPolynomialOn.iterated_deriv (h : CPolynomialOn 𝕜 f s) (n : ℕ) :
...
+  · rw [Function.update_same, if_pos rfl]
+  · rw [Function.update_noteq hj, if_neg hj]
+
+protected theorem hasFDerivAt [DecidableEq ι] (x : ∀ i, M₁ i) :
+    HasFDerivAt f (f.linearDeriv x) x := by
+  rw [← changeOrigin_toFormalMultilinearSeries]
+  convert f.hasFiniteFPowerSeriesOnBall.hasFDerivAt (y := x) ENNReal.coe_lt_top
+  rw [zero_add]
+
+variable (f : ContinuousMultilinearMap R M₁ M₂) {n : ℕ∞} (x : (i : ι) → M₁ i)
```
Comment (alreadydone) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:363]: Do you prefer `(i : ι) → M₁ i` or `∀ i, M₁ i`? We should use the same notation everywhere at least within this PR, I think.
```suggestion
protected theorem hasFDerivAt [DecidableEq ι] (x : ∀ i, M₁ i) :
    HasFDerivAt f (f.linearDeriv x) x := by
  rw [← changeOrigin_toFormalMultilinearSeries]
  convert f.hasFiniteFPowerSeriesOnBall.hasFDerivAt (y := x) ENNReal.coe_lt_top
  rw [zero_add]

variable (f : ContinuousMultilinearMap R M₁ M₂) {n : ℕ∞} (x : (i : ι) → M₁ i)
```

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 2]
```diff
@@ -294,3 +294,85 @@ theorem CPolynomialOn.iterated_deriv (h : CPolynomialOn 𝕜 f s) (n : ℕ) :
...
+lemma cPolynomialAt : CPolynomialAt R f x :=
+  f.hasFiniteFPowerSeriesOnBall.cPolynomialAt_of_mem
+    (by simp only [Metric.emetric_ball_top, Set.mem_univ])
+
+lemma cPolyomialOn : CPolynomialOn R f ⊤ := fun x _ ↦ f.cPolynomialAt x
+
+lemma contDiffAt : ContDiffAt R n f x := CPolynomialAt.contDiffAt (f.cPolynomialAt x)
+
+lemma contDiffOn (s : Set ((i : ι) → M₁ i)) : ContDiffOn R n f s :=
+  CPolynomialOn.contDiffOn (fun x _ ↦ f.cPolynomialAt x)
```
Comment (alreadydone) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:374]: Why use an arbitrary set `s` rather than `⊤` in `contDiffOn`?
```suggestion
lemma cPolyomialOn : CPolynomialOn R f ⊤ := fun x _ ↦ f.cPolynomialAt x

lemma contDiffAt : ContDiffAt R n f x := CPolynomialAt.contDiffAt (f.cPolynomialAt x)

lemma contDiffOn (s : Set ((i : ι) → M₁ i)) : ContDiffOn R n f s :=
  CPolynomialOn.contDiffOn (fun x _ ↦ f.cPolynomialAt x)
```

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 3]
```diff
@@ -294,3 +294,85 @@ theorem CPolynomialOn.iterated_deriv (h : CPolynomialOn 𝕜 f s) (n : ℕ) :
...
+    toFormalMultilinearSeries, dif_pos (Nat.add_sub_of_le Fintype.card_pos).symm]
+  simp_rw [domDomCongr_apply, compContinuousLinearMap_apply, ContinuousLinearMap.proj_apply,
+    Function.update_apply, (Equiv.injective _).eq_iff, ite_apply]
+  congr; ext j
+  obtain rfl | hj := eq_or_ne j i
+  · rw [Function.update_same, if_pos rfl]
+  · rw [Function.update_noteq hj, if_neg hj]
+
+protected theorem hasFDerivAt [DecidableEq ι] (x : ∀ i, M₁ i) :
+    HasFDerivAt f (f.linearDeriv x) x := by
```
Comment (alreadydone) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:358]: Everything above this can be moved to CPolynomial.lean but that's probably pointless, as that file is already longer.

**Review by alreadydone — COMMENTED** [review]
@smorel394

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean (hunk 1 above)
Comment (smorel394) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:363]: I use the first out of habit, but I don't have a strong preference, so feel free to change it.

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean (hunk 2 above)
Comment (smorel394) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:374]: In fact think that `ContinuousMultilinearMap.contDiffOn` can just be deleted, as you can easily get it by applying `ContDiff.contDiffOn` to `ContinuousMultilinearMap.contDiff`.

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:358]: When I was preparing my own PR about this, I had actually created a new file `Multilinear.lean` in `Mathlib.Analysis.Analytic`. But again, I don't have strong opinions about where to put this stuff, and I think you have way more mathlib experience than me.

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:374]: Okay, deleting this
```suggestion
lemma cPolyomialOn : CPolynomialOn R f ⊤ := fun x _ ↦ f.cPolynomialAt x

lemma contDiffAt : ContDiffAt R n f x := CPolynomialAt.contDiffAt (f.cPolynomialAt x)
```

**Comment by smorel394** [comment]
Looks good to me.

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by grunweg** [comment]
It seems this is the PR failing the bors batch. Can you merge master and fix the errors, please?

**Comment by grunweg** [comment]
(I don't think I can do `bors r-`.)
